US07932300B2
B3-5: 2-(2′-vinyloxyethoxy)ethyl methacrylate (trade name: VEEM, manufactured by Nippon Shokubai Co., Ltd.)
(p is about 1.) (C) Photopolymerization Initiators C1-1: 2-(4-methylbenzyl)-2-(dimethylamino)-1-(4-morpholinophenyl)butan-1-one (trade name: Irgacure 379, manufactured by Ciba Specialty Chemicals Co., Ltd.) C2-1: 2,2′-dimethoxy-1,2-diphenylethan-1-one (trade name: Irgacure 651, manufactured by Ciba Specialty Chemicals Co., Ltd.) C2-2: bis(2,4,6-trimethylbenzoyl)phenylphosphine oxide (trade name: Irgacure 819, manufactured by Ciba Specialty Chemicals Co., Ltd.) C2-3: benzophenone C2-4: 4,4′-bis(diethylamino)benzophenone Additives D-1: Solsperse S24000 (trade name, manufactured by Seneka Co., Ltd.)

reactant | 2-(4-methylbenzyl)-2-(dimethylamino)-1-(4-morpholinophenyl)butan-1-one | CC1=CC=C(CC(C(=O)C2=CC=C(C=C2)N2CCOCC2)(CC)N(C)C)C=C1 | C24H32N2O2
reactant | 2,2′-dimethoxy-1,2-diphenylethan-1-one | COC(C(=O)C1=CC=CC=C1)C1=C(C=CC=C1)OC | C16H16O3
reactant | bis(2,4,6-trimethylbenzoyl)phenylphosphine oxide | CC1=C(C(=O)P(C2=CC=CC=C2)(C(C2=C(C=C(C=C2C)C)C)=O)=O)C(=CC(=C1)C)C | C26H27O3P
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | 4,4′-bis(diethylamino)benzophenone | C(C)N(C1=CC=C(C(=O)C2=CC=C(C=C2)N(CC)CC)C=C1)CC | C21H28N2O
product | 2-(2′-vinyloxyethoxy)ethyl methacrylate | C(C(=C)C)(=O)OCCOCCOC=C | C10H16O4
